US06057369
To a solution of t-butyl 7-phenyl-3-phenylsulfanylheptanoate (1.8 g; 6.5 mmol) in CH2Cl2 (20 mL) is slowly added trifluoroacetic acid (6 mL). The reaction is stirred 5 hours and concentrated in vacuo to yield 7-phenyl-3-phenylsulfanylheptanoic acid which is used directly in Step I.

reactant | t-butyl 7-phenyl-3-phenylsulfanylheptanoate | 6.5 mmol, 1.8 g | C1(=CC=CC=C1)CCCCC(CC(=O)OC(C)(C)C)SC1=CC=CC=C1 | C23H30O2S
reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-phenyl-3-phenylsulfanylheptanoic acid | C1(=CC=CC=C1)CCCCC(CC(=O)O)SC1=CC=CC=C1 | C19H22O2S
